US08124606B2
(S)-methyl 6-oxo-6,6a,7,8-tetrahydro-5H-azeto[1,2-a]pyrido[3,2-e]pyrazine-3-carboxylate (0.570 g, 2.444 mmol) was suspended in Tetrahydrofuran (Volume: 8.15 ml) under nitrogen atmosphere and NaH (196 mg, 4.9 mmol) was added in several portions over 2 min. The reaction mixture was stirred at room temperature for 10 min and cooled to below −50° C. lithium aluminum hydride (2.200 ml, 4.40 mmol) was added over the period of 5 min and the reaction was kept at a temperature between −30 and −20° C. for 1 h (LCMS: >95% conversion). The mixture was cooled to below −50° C. and MeOH (4 mL) was added. Water (1 mL) was added and the reaction mixture was stirred at rt for 10 min. Rochelle salt (20% solution) was added (10 mL) and the mixture was extracted with EtOAc (3×30 mL) and THF (3×100 mL). The combined organic extracts were dried (Na2SO4 and MgSO4), filtered and concentrated in vacuo. The residue was suspended in THF/Ethyl ether (1:1, 20 mL), filtered off and dried in vacuum to afford (S)-3-(hydroxymethyl)-7,8-dihydro-5H-azeto[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one (0.332 g, 1.618 mmol, 66.2% yield) as a light tan solid. [M+H] calc'd for C10H11N3O2, 205; found, 205.

reactant | (S)-methyl 6-oxo-6,6a,7,8-tetrahydro-5H-azeto[1,2-a]pyrido[3,2-e]pyrazine-3-carboxylate | 2.444 mmol, 0.570 g | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)C(=O)OC)CC2 | C11H11N3O3
reactant | NaH | 4.9 mmol, 196 mg | [H-].[Na+]
reactant | lithium aluminum hydride | 4.40 mmol, 2.200 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | Tetrahydrofuran | 8.15 ml | O1CCCC1 | C4H8O
solvent | Water | 1 mL | O | H2O
solvent | MeOH | 4 mL | CO | CH4O
product | (S)-3-(hydroxymethyl)-7,8-dihydro-5H-azeto[1,2-a]pyrido[3,2-e]pyrazin-6(6aH)-one | 1.618 mmol, 0.332 g, 66.2% yield | OCC1=CC=2NC([C@H]3N(C2N=C1)CC3)=O | C10H11N3O2
